US07601844B2
(R)-2-Amino-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methylbutan-1-one (40 mg, 0.107 mmol), 2′-(methoxycarbonyl)biphenyl-3-carboxylic acid (33 mg, 0.128 mmol), HOBT (20 mg, 0.128 mmol), EDC (25 mg, 0.128 mmol) and triethylamine (0.030 mL, 0.213 mmol) were mixed in methylene chloride (3 mL) at 25° C. with stirring. The reaction was stirred for 20 hours then worked up by adding methylene chloride and washing with sat'd sodium bicarbonate. The methylene chloride layer was dried over sodium sulfate and concentrated in vacuo to give a white glass which was purified over silica gel (3:1 to 1:1 Hexanes/EtOAc) to obtain methyl 3′-((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamoyl)biphenyl-2-carboxylate (40 mg, 0.069 mmol, 65.0% yield) as a white glass. MS found: (M+H)+=577.31.

reactant | (R)-2-Amino-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methylbutan-1-one | 0.107 mmol, 40 mg | N[C@@H](C(=O)N1CC([C@@](CC1)(O)C1=CC=C(C=C1)Cl)(C)C)C(C)C | C18H27ClN2O2
reactant | 2′-(methoxycarbonyl)biphenyl-3-carboxylic acid | 0.128 mmol, 33 mg | COC(=O)C1=C(C=CC=C1)C1=CC(=CC=C1)C(=O)O | C15H12O4
reactant | HOBT | 0.128 mmol, 20 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.128 mmol, 25 mg
reactant | triethylamine | 0.213 mmol, 0.030 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | methyl 3′-((R)-1-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamoyl)biphenyl-2-carboxylate | 0.069 mmol, 40 mg, 65.0% yield | ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C([C@@H](C(C)C)NC(=O)C=1C=C(C=CC1)C=1C(=CC=CC1)C(=O)OC)=O)(C)C)O | C33H37ClN2O5
